US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-2-methyl-2H-isoquinolin-1-one
3-[1-(3,4-Dichlorophenyl)-3-oxopropyl]-2-methyl-2H-isoquinolin-1-one (0.303 g) was coupled to 4-hydroxy-4-phenyl-piperidine (0.15 g) by method similar to that described in Example 1. After aqueous work up, the product was purified by column chromatography. Eluting with ethyl acetate, followed by dichloromethane:methanol, (9:1) afforded the title compound as a solid; mp 100°-102° C.; MS: m/z=521(M+1); NMR: 1.55 (t,2, J=12), 1.89 (m,2), 2.10 (m,1), 2.28 (m,5), 3.35 (s,3), 4.46 (broad,1), 6.90 (s,1), 7.17-7.71 (m,11), 8.18 (d,1, J=8). Analysis for C30H30Cl2N2O2.0.5 H2O: Calculated: C, 67.92; H, 5.89; N, 5.28; Found: C, 68.22; H, 5.86; N, 5.16.

reactant | 3-[1-(3,4-Dichlorophenyl)-3-oxopropyl]-2-methyl-2H-isoquinolin-1-one | 0.303 g | ClC=1C=C(C=CC1Cl)C(CC=O)C=1N(C(C2=CC=CC=C2C1)=O)C | C19H15Cl2NO2
reactant | 4-hydroxy-4-phenyl-piperidine | 0.15 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-2-methyl-2H-isoquinolin-1-one | ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)O)C=1N(C(C2=CC=CC=C2C1)=O)C | C30H30Cl2N2O2
